US04558155
1-(2-Bromoethoxy)naphthalene
A solution of 144.0 g (1 mole) α-naphthol and 56.1 g (1 mole) potassium hydroxide in 600 ml of 95% ethanol was stirred 1.5 hr at room temperature. To this solution of potassium naphthalate was added 930.0 g (5.0 mole) of 1,2-dibromoethane, and the solution was heated at reflux overnight. The reaction mixture was filtered, and the filtrate stripped to dryness under reduced pressure in a rotary evaporator. The resulting oil was dissolved in chloroform and the solution extracted with 10% aqueous sodium hydroxide. The chloroform layer was dried and stripped of chloroform to yield 126 g (50.3%) of dark brown oil.

reactant | α-naphthol | 1 mole, 144.0 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | potassium hydroxide | 1 mole, 56.1 g | [OH-].[K+]
reactant | potassium naphthalate | C1(=CC=CC2=CC=CC=C12)C(=O)[O-].[K+]
reactant | 1,2-dibromoethane | 5.0 mole, 930.0 g | BrCCBr | C2H4Br2
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 1-(2-Bromoethoxy)naphthalene | 126 g, 50.3% | BrCCOC1=CC=CC2=CC=CC=C12 | C12H11BrO
